US05045552
2-[4-{3-(2-Methoxyethoxy)propoxy}-3-methylpyridine-2-yl]methylthio-1H-benzimidazole
A mixture comprising 1.9 g of crude [4-{3-(2-methoxyethoxy)propoxy}-3-methylpyridine-2-yl]methyl methanesulfonate, 0.83 g of 2-mercapto-1H-benzimidazole and 20 ml of ethanol was stirred at a room temperature for one hour, made basic with a saturated aqueous solution of sodium hydrogencarbonate and extracted with chloroform. The extract was dried over magnesium sulfate and distilled under a reduced pressure. The obtained residue was chromatographed over a silica gel column and eluted with ethyl acetate/n-hexane to obtain 1.5 g of an oily product.

reactant | [4-{3-(2-methoxyethoxy)propoxy}-3-methylpyridine-2-yl]methyl methanesulfonate | 1.9 g | CS(=O)(=O)OCC1=NC=CC(=C1C)OCCCOCCOC | C14H23NO6S
reactant | 2-mercapto-1H-benzimidazole | 0.83 g | SC1=NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[4-{3-(2-Methoxyethoxy)propoxy}-3-methylpyridine-2-yl]methylthio-1H-benzimidazole | 1.5 g | COCCOCCCOC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)C | C20H25N3O3S
